US09334279B2
To a solution of (2S,4R)-1-((2S,3R)-2-((tert-butoxycarbonyl)amino)-3,5-dimethylnon-8-enoyl)-4-hydroxypyrrolidine-2-carboxylic acid (10.4 g, 25.3 mmol), (1R,2S)-1-amino-N-(cyclopropylsulfonyl)-2-vinylcyclopropanecarboxamide p-toluenesulfonate salt (11.2 g, 27.8 mmol), and N,N-diisopropylethylamine (17.6 ml, 101 mmol) in CH2Cl2 (200 ml) was added HATU (11.5 g, 30.4 mmol). The mixture was stirred at room temperature for 16 h. The mixture was transferred to a separatory funnel and was thrice washed with aq. 1N HCl; then brine. The organic phase was dried over MgSO4; filtered; then concentrated in vacuo. The resulting residue was subjected to silica gel chromatography to afford tert-butyl ((2S,3R)-1-((2S,4R)-2-(((1R,2S)-1-((cyclopropylsulfonyl)carbamoyl)-2-vinylcyclopropyl)carbamoyl)-4-hydroxypyrrolidin-1-yl)-3,5-dimethyl-1-oxonon-8-en-2-yl)carbamate as a light-orange solid foam (14.8 g, 94%).

reactant | (2S,4R)-1-((2S,3R)-2-((tert-butoxycarbonyl)amino)-3,5-dimethylnon-8-enoyl)-4-hydroxypyrrolidine-2-carboxylic acid | 25.3 mmol, 10.4 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)N1[C@@H](C[C@H](C1)O)C(=O)O)[C@@H](CC(CCC=C)C)C | C21H36N2O6
reactant | (1R,2S)-1-amino-N-(cyclopropylsulfonyl)-2-vinylcyclopropanecarboxamide p-toluenesulfonate salt | 27.8 mmol, 11.2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.N[C@]1([C@@H](C1)C=C)C(=O)NS(=O)(=O)C1CC1
reactant | N,N-diisopropylethylamine | 101 mmol, 17.6 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HATU | 30.4 mmol, 11.5 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | CH2Cl2 | 200 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl ((2S,3R)-1-((2S,4R)-2-(((1R,2S)-1-((cyclopropylsulfonyl)carbamoyl)-2-vinylcyclopropyl)carbamoyl)-4-hydroxypyrrolidin-1-yl)-3,5-dimethyl-1-oxonon-8-en-2-yl)carbamate | C1(CC1)S(=O)(=O)NC(=O)[C@@]1([C@@H](C1)C=C)NC(=O)[C@H]1N(C[C@@H](C1)O)C([C@H]([C@@H](CC(CCC=C)C)C)NC(OC(C)(C)C)=O)=O | C30H48N4O8S
